US07067540B2
3-Bromo-1-(3-fluorobenzyl)-4-(3-fluorobenzyloxy)-1H-pyridin-2-one
To an ice-cold solution of 1-(3-fluorobenzyl)-4-(3-fluorobenzyloxy)-1H-pyridin-2-one (0.14 g, 0.43 mmol) in AcOH (2 mL) was added a solution of bromine (72 mg, 0.45 mmol) in AcOH (1 mL), and the reaction mixture was stirred for 5 min. The reaction mixture was warmed to room temperature and the solvent was removed under reduced pressure. 1H NMR (300 MHz, CDCl3) δ 7.45-6.95 (m, 9H), 6.05 (d, J=8 Hz, 1H), 5.21 (s, 2H), 5.14 (s, 2H). ES HRMS m/z 406.0254 (M+H C19H15BrF2NO2 requires 406.0249).

reactant | 1-(3-fluorobenzyl)-4-(3-fluorobenzyloxy)-1H-pyridin-2-one | 0.43 mmol, 0.14 g | FC=1C=C(CN2C(C=C(C=C2)OCC2=CC(=CC=C2)F)=O)C=CC1 | C19H15F2NO2
reactant | bromine | 0.45 mmol, 72 mg | BrBr | Br2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 3-Bromo-1-(3-fluorobenzyl)-4-(3-fluorobenzyloxy)-1H-pyridin-2-one | BrC=1C(N(C=CC1OCC1=CC(=CC=C1)F)CC1=CC(=CC=C1)F)=O | C19H14BrF2NO2
